US09402397B2
4-Bromo-1H-imidazole (500 mg, 3.4 mmol, 1 eq), phenylboronic acid (830 mg, 6.8 mmol, 2 eq), anhydrous cupric acetate (926 mg, 5.1 mmol), activated 4 Å molecular sieves (2 g) and pyridine (0.3 ml) were combined in dichloromethane (20 ml) and stirred for 2 days in the presence of air. The reaction mass was then filtered through Celite, washed with methanol, and concentrated and purified by silica gel chromatography (eluent 15% ethyl acetate/hexane) to afforded yellowish sticky solid 4-bromo-1-phenyl-1H-imidazole (200 mg, 26%).

reactant | 4-Bromo-1H-imidazole | 3.4 mmol, 500 mg, 1 eq | BrC=1N=CNC1 | C3H3BrN2
reactant | phenylboronic acid | 6.8 mmol, 830 mg, 2 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-bromo-1-phenyl-1H-imidazole | 200 mg, 26% | BrC=1N=CN(C1)C1=CC=CC=C1 | C9H7BrN2
